US06900337B2
Preparation of 5-Methyl-1-Decyl-2-Pyrrolidone (DeMP)
The feedstock used in examples 78 through 86 was 25% of the ammonium salt of levulinic acid, 25% decylamine, and 41% water, by weight. The temperature and pressure of the reactions were maintained at 150° C. and 6.9 MPa. Water was used as the solvent medium for the reactions. The results are set forth in the following table.

reactant | levulinic acid | C(CCC(=O)C)(=O)O | C5H8O3
reactant | decylamine | C(CCCCCCCCC)N | C10H23N
solvent | Water | O | H2O
product | 5-Methyl-1-Decyl-2-Pyrrolidone | CC1CCC(N1CCCCCCCCCC)=O | C15H29NO
